US04492692
Using the technique for the starting material of Example 74, 2-fluoroimidazole hydrochloride was alkylated with ethyl 4-bromobutyrate to give ethyl 4-(2-fluoroimidazol-1-yl)butyrate, having the following n.m.r. in CDCl3 : 1.3 (t, 3H); 1.9-2.5 (m, 4H); 3.9 (t, 2H); 4.1 (q, 2H); 6.5 (d, 1H); 6.6 (d, 1H).

reactant | 2-fluoroimidazole hydrochloride | Cl.FC=1NC=CN1
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | ethyl 4-(2-fluoroimidazol-1-yl)butyrate | FC=1N(C=CN1)CCCC(=O)OCC | C9H13FN2O2
